US05840732
ii) Synthesis of 5-butylidene-3-(imidazo[1,2-a]pyridin-5-yl)methylthiazolidine-2,4-dione
To a solution of 223 mg (0.9 mmol) of 3-(imidazo[1,2-a]pyridin-5-yl)methylthiazolidine-2,4-dione and 0.09 ml (1.0 mmol) of n-butyraldehyde in 5 ml of ethanol, 0.001 ml (0.1 mmol) of piperidine was added, followed by refluxing for 2 hours. After the reaction mixture was cooled, the solvent was distilled off. The residue was dissolved in chloroform, washed with water and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, hexane/ethyl acetate=1/4) to yield 222 mg (82.2%, light yellow oily substance) of the desired product.

reactant | 3-(imidazo[1,2-a]pyridin-5-yl)methylthiazolidine-2,4-dione | 0.9 mmol, 223 mg | N=1C=CN2C1C=CC=C2CN2C(SCC2=O)=O | C11H9N3O2S
reactant | n-butyraldehyde | 1.0 mmol, 0.09 ml | C(CCC)=O | C4H8O
reactant | piperidine | 0.1 mmol, 0.001 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-butylidene-3-(imidazo[1,2-a]pyridin-5-yl)methylthiazolidine-2,4-dione | C(CCC)=C1C(N(C(S1)=O)CC1=CC=CC=2N1C=CN2)=O | C15H15N3O2S
